US07915258B2
A) 3-Fluoro-4-propoxybenzoic acid
A mixture of 2 g of 3-fluoro-4-hydroxybenzoic acid and 5.31 g of K2CO3 in 50 ml of acetonitrile is refluxed for 24 hours, 0.5 ml of 1-iodopropane is added and the refluxing is continued for 7 hours. After cooling to AT, the reaction mixture is concentrated under vacuum, the residue is taken up with water, the mixture is extracted with EtOAc and the solvent is evaporated off under vacuum. The residue is taken up in 30 ml of EtOH, 5 ml of a concentrated NaOH solution are added, and the mixture is left to stir at 60° C. for 1 hour. The mixture is concentrated under vacuum, the residue is taken up with a 10% HCl solution, the mixture is extracted with DCM, the organic phase is dried over Na2SO4, and the solvent is evaporated off under vacuum. 0.8 g of the expected compound is obtained.

reactant | 3-fluoro-4-hydroxybenzoic acid | 2 g | FC=1C=C(C(=O)O)C=CC1O | C7H5FO3
reactant | K2CO3 | 5.31 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-iodopropane | 0.5 ml | ICCC | C3H7I
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-Fluoro-4-propoxybenzoic acid | 0.8 g | FC=1C=C(C(=O)O)C=CC1OCCC | C10H11FO3
